US06642232B2
A solution of 1-azabicyclo[ 1.1.0]butane, prepared from 2,3-dibromopropylamine hydrobromide (58.8 mmol) according to a known procedure described in Tetrahedron Lett. 40: 3761-64 (1999), was slowly added to a solution of morpholine (15.7 ml; 180 mmol) and sulfuric acid (3.3 g of 96% soln.) in anhydrous non-denaturated ethanol (250 ml) at 0° C. The reaction mixture was stirred on ice bath for 30 min., then at room temperature for 8 h. Calcium hydroxide (5.5 g) and 100 ml of water was added and the obtained slurry was stirred for 1 h and then filtered through a pad of cellite. The filtrate was concentrated and distilled at reduced pressure (20 mm Hg) to remove water and an excess of morpholine. The distillation residue was re-distilled at high vacuum using a Kugelrohr apparatus to obtain a pure 4-(azetidin-3-yl)morpholine in 33% yield (2.759 g) as a colorless oily liquid.

reactant | 1-azabicyclo[ 1.1.0]butane | N12CC2C1 | C3H5N
reactant | 2,3-dibromopropylamine hydrobromide | 58.8 mmol | Br.BrC(CN)CBr
reactant | morpholine | 180 mmol, 15.7 ml | N1CCOCC1 | C4H9NO
reactant | sulfuric acid | 3.3 g | S(O)(O)(=O)=O | H2O4S
reactant | Calcium hydroxide | 5.5 g | [OH-].[Ca+2].[OH-]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-(azetidin-3-yl)morpholine | 33% yield | N1CC(C1)N1CCOCC1 | C7H14N2O
